US07102008B2
4-Chloro-1-(4-hydroxy-phenyl)-butan-1-one (1.0 g, 5.03 mmol) and benzyl bromide (0.86 g, 5.03 mmol) were combined with potassium carbonate (2 g) in acetone (50 mL). The reaction was stirred over 2 days at room temperature and became a thick slurry. This was partitioned between ethyl acetate and water saturated KH2PO4. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give a semi-solid. The product was purified by FCC on silica gel eluting hexane:ethyl acetate (80:20, v:v) to give 1-(4-benzyloxy-phenyl)-4-chloro-butan-1-one (0.5 g, 35%) as a solid. MS found: (M+H)+=289.

reactant | 4-Chloro-1-(4-hydroxy-phenyl)-butan-1-one | 5.03 mmol, 1.0 g | ClCCCC(=O)C1=CC=C(C=C1)O | C10H11ClO2
reactant | benzyl bromide | 5.03 mmol, 0.86 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-(4-benzyloxy-phenyl)-4-chloro-butan-1-one | 0.5 g, 35% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CCCCl)=O | C17H17ClO2
